US05514680
6-Bromo-7-fluoro-1,4-dihydro-2,3-quinoxalinedione
The title compound was prepared using an adaptation of the method of Cheeseman. (Cheeseman, G. W. H. J. Chem. Soc. 1171 (1962)). A mixture of diethyl oxalate (1.97 mL, 13.5 mmol) and 4-bromo-5-fluoro-1,2-diaminobenzene (277 mg, 1.35 mmol) was heated to reflux under N2 for 12 h. The reaction was allowed to cool to room temperature and the dark-brown solid collected by vacuum filtration and rinsed with ethanol (20 mL) and air dried to give 233 mg (67%) of a powdery brown solid. A portion of this solid (100 mg) was taken and dissolved in 5 mL 1N NaOH. The solution was treated with activated charcoal and filtered through a pad of Celite. The Celite was rinsed with 10 mL additional NaOH solution. The resulting solution was carefully acidified with 1N HCl (pH=5). Bright yellow needles slowly formed in the solution and were collected by vacuum filtration, rinsed with 15 mL of H2O and dried under vacuum (0.1 torr, 78° C.) to yield 40.0 mg of yellow crystals. 1H NMR (d6 -DMSO) δ6.99 (d,1H, J=9.3, H-8), 7.29 (d, 1H, J=6.3, H-6), 11.95 (br s, 2H, 2(NH)). EIMS m/z 260 (M+2, 96), 258 (M+(bp)), 232 (51), 230 (52), 123 (83). EIHRMS calc. for C8H4BrFN2O2 256.9941, found 257.9441.

reactant | diethyl oxalate | 13.5 mmol, 1.97 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 4-bromo-5-fluoro-1,2-diaminobenzene | 1.35 mmol, 277 mg | BrC1=CC(=C(C=C1F)N)N | C6H6BrFN2
product | 6-Bromo-7-fluoro-1,4-dihydro-2,3-quinoxalinedione | BrC=1C=C2NC(C(NC2=CC1F)=O)=O | C8H4BrFN2O2
